### PR TITLE
chore(TrivSqZeroExt): use inferInstanceAs for Prod instances

### PR DESCRIPTION
**Pull request by kim-em**
This PR replaces explicit `Prod.instFoo` / `Prod.foo` instance references in `TrivSqZeroExt.Basic` with `inferInstanceAs <| Foo (R × M)`, making the instances more robust against upstream name changes and ensuring definitional equality with the corresponding `Prod` instances.

🤖 Prepared with Claude Code

### CODE REVIEW

File: Mathlib/Algebra/Algebra/Unitization.lean [hunk 1]
```diff
@@ -491,7 +491,7 @@ instance instNonAssocRing [CommRing R] [NonUnitalNonAssocRing A] [Module R A] :
 
 instance instRing [CommRing R] [NonUnitalRing A] [Module R A] [IsScalarTower R A A]
     [SMulCommClass R A A] : Ring (Unitization R A) :=
-  { Unitization.instAddCommGroup, Unitization.instSemiring with }
+  fast_instance% { Unitization.instAddCommGroup, Unitization.instSemiring with }
```
Comment (eric-wieser) [inline Mathlib/Algebra/Algebra/Unitization.lean]: Why do we need this here but not on any of the other similar instances above? I think either this is worthy of a comment or we should apply it to all of them.

Comment (eric-wieser) [reply Mathlib/Algebra/Algebra/Unitization.lean]: Changing all the `Prod.instFoo`s to `fast_instance% Prod.instFoo`s above also seems to fix the issue, which seems clearer because the defeq abuse is happening on those lines not this one.

Comment (kim-em) [reply Mathlib/Algebra/Algebra/Unitization.lean]: Because the others don't cause instance diamonds? I'd prefer to make minimal changes focused on solving observable problems.

Comment (JovanGerb) [reply Mathlib/Algebra/Algebra/Unitization.lean]: I disagree. I think the diamonds linter has only a limited ability to see defeq problems. We should be striving to fix all the defeq problems, not just the ones that the linter tells us about.

Comment (eric-wieser) [reply Mathlib/Algebra/Algebra/Unitization.lean]: #37014 replaces this anyway.

File: Mathlib/Algebra/TrivSqZeroExt/Basic.lean [hunk 2]
```diff
@@ -655,7 +655,7 @@ theorem snd_list_prod [Monoid R] [AddCommMonoid M] [DistribMulAction R M] [Distr
 
 instance ring [Ring R] [AddCommGroup M] [Module R M] [Module Rᵐᵒᵖ M] [SMulCommClass R Rᵐᵒᵖ M] :
     Ring (tsze R M) :=
-  { TrivSqZeroExt.semiring, TrivSqZeroExt.nonAssocRing with }
+  fast_instance% { TrivSqZeroExt.semiring, TrivSqZeroExt.nonAssocRing with }
```
Comment (eric-wieser) [inline Mathlib/Algebra/TrivSqZeroExt/Basic.lean]: This is fixing the symptom not the cause; I believe we should instead be putting `fast_instance%` on all the instances copied from `Prod`, such as [these ones](https://github.com/leanprover-community/mathlib4/blob/0bfa2030ad6e014f78410c51972fd2fcca707f9a/Mathlib/Algebra/TrivSqZeroExt/Basic.lean#L194-L239).

(Rewriting to `inferInstanceAs` is acceptable if that's preferred)

File: Mathlib/LinearAlgebra/TensorProduct/Graded/Internal.lean [hunk 3]
```diff
@@ -176,13 +176,12 @@ instance instMonoid : Monoid (𝒜 ᵍ⊗[R] ℬ) where
...
 
-instance instRing : Ring (𝒜 ᵍ⊗[R] ℬ) where
-  __ := instAddCommGroupWithOne 𝒜 ℬ
-  __ := instMonoid 𝒜 ℬ
-  right_distrib x y z := by simp_rw [mul_def, LinearMap.map_add₂]
-  left_distrib x y z := by simp_rw [mul_def, map_add]
-  mul_zero x := by simp_rw [mul_def, map_zero]
-  zero_mul x := by simp_rw [mul_def, LinearMap.map_zero₂]
+instance instRing : Ring (𝒜 ᵍ⊗[R] ℬ) :=
+  fast_instance% { instAddCommGroupWithOne 𝒜 ℬ, instMonoid 𝒜 ℬ with
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/TensorProduct/Graded/Internal.lean]: Is this one definitely needed in the presence of the one higher up the file?

File: Mathlib/LinearAlgebra/TensorProduct/Graded/Internal.lean [hunk 4]
```diff
@@ -176,13 +176,12 @@ instance instMonoid : Monoid (𝒜 ᵍ⊗[R] ℬ) where
...
+    right_distrib := fun x y z => by simp_rw [mul_def, LinearMap.map_add₂]
+    left_distrib := fun x y z => by simp_rw [mul_def, map_add]
+    mul_zero := fun x => by simp_rw [mul_def, map_zero]
+    zero_mul := fun x => by simp_rw [mul_def, LinearMap.map_zero₂] }
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/TensorProduct/Graded/Internal.lean]: Why did you move the binders after the `:=`?

File: Mathlib/RingTheory/MvPowerSeries/Basic.lean [hunk 5]
```diff
@@ -314,7 +314,7 @@ instance [CommSemiring R] : CommSemiring (MvPowerSeries σ R) :=
           sum_antidiagonal_swap n fun a b => coeff a φ * coeff b ψ }
 
 instance [Ring R] : Ring (MvPowerSeries σ R) :=
-  { (inferInstance : Semiring (MvPowerSeries σ R)),
+  fast_instance% { (inferInstance : Semiring (MvPowerSeries σ R)),
```
Comment (eric-wieser) [inline Mathlib/RingTheory/MvPowerSeries/Basic.lean]: Similarly, I think this belongs on all the `Pi` instances around line 120 instead.

Comment (JovanGerb) [reply Mathlib/RingTheory/MvPowerSeries/Basic.lean]: I have already done this changed, and it has been merged. So I think no more changes are needed in this file.

File: Mathlib/LinearAlgebra/TensorProduct/Graded/Internal.lean (hunk 4 above)
Comment (kim-em) [reply Mathlib/LinearAlgebra/TensorProduct/Graded/Internal.lean]: Just while converting a `where` to a `{}`, didn't think it mattered much. Reverted.

File: Mathlib/RingTheory/MvPowerSeries/Basic.lean (hunk 5 above)
Comment (kim-em) [inline Mathlib/RingTheory/MvPowerSeries/Basic.lean]:
```suggestion
  { (inferInstance : Semiring (MvPowerSeries σ R)),
```

File: Mathlib/Algebra/TrivSqZeroExt/Basic.lean (hunk 2 above)
Comment (kim-em) [reply Mathlib/Algebra/TrivSqZeroExt/Basic.lean]:
```suggestion
  { TrivSqZeroExt.semiring, TrivSqZeroExt.nonAssocRing with }
```
